US07030139B2
27A: 1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-N-methyl-1H-benzimidazol-5-amine.
Methyl-1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazol-5-ylcarbamate (1.65 g, 4.35 mmol) was added portionwise to a cold (0° C.) solution of AlH3 (˜0.3 M), which was freshly prepared by adding dropwise conc. H2SO4 (0.80 g, 8.10 mmol) to 1 M LiAlH4 THF solution (16 ml, 16 mmol) in THF (30 mL) at 0° C. The reaction mixture was stirred at room temperature overnight, and subsequently quenched carefully by adding EtOAc (5 mL), H2O (3 mL) and Et2O (100 mL), and then Na2SO4.5H2O (10 g). The reaction mixture was stirred until a clear solution was produced, and the solid was filtered off. The filtrate was dried over Na2SO4 and concentrated in vacuo to afford desired compound (1.21 g). The crude product was used for next step without further purification.

reactant | Methyl-1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazol-5-ylcarbamate | 4.35 mmol, 1.65 g | COC(NC1=CC2=C(N(C(=N2)CC2=CC=C(C=C2)OCC)CC2CC2)C=C1)=O | C22H25N3O3
reactant | AlH3 | ˜0.3 M | [AlH3]
reactant | H2SO4 | 8.10 mmol, 0.80 g | OS(=O)(=O)O | H2O4S
reactant | LiAlH4 THF | 16 mmol, 1 M, 16 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3].C1CCOC1
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-N-methyl-1H-benzimidazol-5-amine | 1.21 g | C1(CC1)CN1C(=NC2=C1C=CC(=C2)NC)CC2=CC=C(C=C2)OCC | C21H25N3O
